US04837204
Benzoylleucine Methyl Ester
Prepared from L-leucine methyl ester HCl and benzoyl chloride according to the procedure from Example 10.

reactant | L-leucine methyl ester HCl | Cl.COC([C@@H](N)CC(C)C)=O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | Benzoylleucine Methyl Ester | COC([C@@H](NC(C1=CC=CC=C1)=O)CC(C)C)=O | C14H19NO3
